US05594075
2-Ethynyl-5-(4-pyridyl)ethynyl Thiophene
A distillation apparatus was set up and 2-{3-methyl-3-hydroxybutynyl}-5-{2-(4pyridyl)ethynyl}thiophene (8.50 g, 31.84 mmol), KOH (1.78 g, 21.84 mmol) in 25 ml of methanol and 200 ml of toluene were added to the distillation flask. The flask was heated to about 90° C. until all the acetone formed in the reaction and the methanol were collected in the receiving flask (total heating time, about 1.5 to 2 hours). The toluene was removed under reduced pressure and the reddish residue was purified by chromatography on silica gel using 2:8 THF/petroleum ether as the eluting solvent to obtain 4.65 g (69.92% yield) of light yellow solid. TLC (3:7 THF/hexane): Rf =0.28, mp=134.5°-135.5° C. FTIR (cm-1): 3304 (H--C≡C), 2206 (C≡C). Elemental analysis: Calculated for C13H7NS (mw 209.26): C, 74.61; H, 3.37; N, 6.70. Found: C, 74.54; H, 3.19; N, 6.72. DSC thermogram of the monomer showed a melting transition at 138° C. and a transition for thermal curing of the terminal C≡C at 144.67° C. TGA thermogram showed about 10-20% weight loss at the terminal C≡C cure temperature (about 150° C.) after which there was little weight loss up to about 400° C.

reactant | 2-{3-methyl-3-hydroxybutynyl}-5-{2-(4pyridyl)ethynyl}thiophene | 31.84 mmol, 8.50 g | CC(C#CC=1SC(=CC1)C#CC1=CC=NC=C1)(C)O | C16H13NOS
reactant | KOH | 21.84 mmol, 1.78 g | [OH-].[K+]
reactant | acetone | CC(=O)C | C3H6O
reactant | THF hexane | C1CCOC1.CCCCCC
solvent | methanol | 25 ml | CO | CH4O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Ethynyl-5-(4-pyridyl)ethynyl Thiophene | 69.92% yield | C(#C)C=1SC(=CC1)C#CC1=CC=NC=C1 | C13H7NS
